US03946009
Step A: 2-Amino-3-bromo-5-methylpyrazine
To acetic acid (1500 ml.), 2-amino-5-methylpyrazine (1 mole) and 326.5 g. sodium acetate trihydrate are slowly added 1.1 mole bromine in 180 ml. acetic acid at 2° C. in the absence of light. The mixture is stirred about 15 hours at 20° C., stripped of acetic acid in vacuo, poured into ice, made alkaline with sodium hydroxide, filtered, the residue extracted with ether, the extract stripped and the 2-amino-3-bromo-5-methylpyrazine crystallized from a suitable solvent.

reactant | 2-amino-5-methylpyrazine | 1 mole | NC1=NC=C(N=C1)C | C5H7N3
reactant | sodium acetate trihydrate | O.O.O.C(C)(=O)[O-].[Na+]
reactant | bromine | 1.1 mole | BrBr | Br2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1500 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-3-bromo-5-methylpyrazine | NC1=NC=C(N=C1Br)C | C5H6BrN3
